US07179823B1
A mixture of ethyl 3-[3-ethoxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate (690 mg), 5-chloromethyl-2-phenylpyridine (470 mg), potassium carbonate (450 mg) and N,N-dimethylformamide (10 ml) was stirred at 80° C. for 5 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel chromatography to obtain a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). After a mixture of the resulting colorless oily substance, 1N aqueous sodium hydroxide solution (5 ml), tetrahydrofuran (5 ml) and ethanol (5 ml) was stirred at room temperature for 2 hours, 1 N hydrochloric acid (5 ml) was added, and then the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The resulting colorless crystals were collected by filtration to obtain 3-[3-ethoxy-1-[4-(6-phenyl-3-pyridylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid (900 mg, yield: 91%). This was recrystallized from acetone-hexane. Melting point: 140–141° C.

reactant | ethyl 3-[3-ethoxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate | 690 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)O | C17H22N2O4
reactant | 5-chloromethyl-2-phenylpyridine | 470 mg | ClCC=1C=CC(=NC1)C1=CC=CC=C1 | C12H10ClN
reactant | potassium carbonate | 450 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[3-ethoxy-1-[4-(6-phenyl-3-pyridylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid | 900 mg, yield: 91% | C(C)OC1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1C=NC(=CC1)C1=CC=CC=C1 | C27H27N3O4
